US04837227
To a mixture of 2.3 g of cyanogen bromide and 5.0 g of potassium carbonate in 40 ml of chloroform is added portionwise over a 50 minutes span a solution of 4.8 of 2-fluoro-10,11-dihydro-11-[β-(dimethylamino)ethylthio]dibenz[b,f]oxepin, free base of Example 32, in 85 ml of chloroform. After total addition, the mixture is stirred for 20 minutes before being filtered. The filtrate is evaporated to leave an oil which is treated with three portions of boiling hexane. The combined hexane portions are evaporated leaving an oil which is chromatographed through a silica gel column with an eluant of methylene chloride and is recrystallized from cold hexane to give a white powder, mp 46°-48° C. of 11-[β-(bromo)ethylthio]-2-fluoro-10,11-dihydrodibenz[b,f]oxepin.

reactant | cyanogen bromide | 2.3 g | N#CBr | CBrN
reactant | potassium carbonate | 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoro-10,11-dihydro-11-[β-(dimethylamino)ethylthio]dibenz[b,f]oxepin | FC1=CC2=C(OC3=C(CC2SCCN(C)C)C=CC=C3)C=C1 | C18H20FNOS
reactant | hexane | CCCCCC | C6H14
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 85 ml | C(Cl)(Cl)Cl | CHCl3
product | 11-[β-(bromo)ethylthio]-2-fluoro-10,11-dihydrodibenz[b,f]oxepin | BrCCSC1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)F | C16H14BrFOS
